US05321041
5-Lipoxygenase activity was determined according to the method described by Ochi et al., J. Biol. Chem.,258, p. 5754, 1983 using a crude enzyme fraction prepared from peritoneal exudated cells of guinea pigs which were induced by intraperitoneal injection of 2% case in solution. A solution of a test drug was mixed with a reaction solution (2mM ATP, 1 mM glutathione, and the enzyme fraction in 50 mM phosphate buffer, PH 7.4) and the mixture was pre-incubated at 37° C. for 5 minutes. Calcium chloride (1 mM) and 20 μM14C-arachidonic acid were added to the mixture, and then the mixture was subjected to a reaction at 37° C. for 10 minutes. After the completion of the reaction, the product was immediately extracted, dissolved in chloroform/methanol (2:1), and developed by thin-layer chromatography. Radioactivity of the 5-hydroxyeicosatetraenoic acid (5-HETE) fraction was measured using a liquid scintillation counter. Inhibitory rate of each drug-treated group against 5-HETE generation was obtained in comparison with the solvent-treated control, and IC50 was calculated according to the probit method. The results obtained are shown in Table 2 below.

reactant | ATP | 2mM | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
reactant | glutathione | 1 mM | N[C@H](C(=O)O)CCC(=O)N[C@@H](CS)C(=O)NCC(=O)O | C10H17N3O6S
reactant | Calcium chloride | 1 mM | [Cl-].[Ca+2].[Cl-]
solvent | phosphate | 50 mM | P(=O)([O-])([O-])[O-]
product | 5-HETE | OC(=CC=CC(=O)O)C=CC=CCCCCCCCCCCC | C20H32O3
